US06982278B2
{4-[5-Methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-ylmethylsulfanyl]-2-propyl-phenoxy}-acetic acid
To a mixture of (4-mercapto-2-propyl-phenoxy)-acetic acid ethyl ester (127 mg, 0.5 mmol) and 4-Chloromethyl-5-methyl-2-(4-trifluoromethyl-phenyl)-oxazole (131 mg, 0.48 mmol) in acetonitrile (2 mL) was added cesium carbonate (326 mg, 1 mmol). After 4 h at room temperature, the reaction was quenched by water, extracted with ethyl acetate. Combined organic layers were washed with brine, dried (sodium sulfate) and concentrated. The residue was taken into THF (2 mL) and treated with lithium hydroxide (1N, 0.5 mL) at room temperature for 2 h. THF was evaporated, the residue was treated with water (0.5 mL) and extracted with ether. The aqueous was acidified with 5 N HCl, extracted with ether, dried over sodium sulfate and concentrated. The crude product was purified by reversed phase HPLC to give the title compound (125 mg, 53.7%)

reactant | (4-mercapto-2-propyl-phenoxy)-acetic acid ethyl ester | 0.5 mmol, 127 mg | C(C)OC(COC1=C(C=C(C=C1)S)CCC)=O | C13H18O3S
reactant | 4-Chloromethyl-5-methyl-2-(4-trifluoromethyl-phenyl)-oxazole | 0.48 mmol, 131 mg | ClCC=1N=C(OC1C)C1=CC=C(C=C1)C(F)(F)F | C12H9ClF3NO
reactant | cesium carbonate | 1 mmol, 326 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | {4-[5-Methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-ylmethylsulfanyl]-2-propyl-phenoxy}-acetic acid | 125 mg, 53.7% | CC1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)CSC1=CC(=C(OCC(=O)O)C=C1)CCC | C23H22F3NO4S
